US07960369B2
methyl 3-(4-((2′,6′-diethylbiphenyl-3-yl)methoxy)phenyl)propanoate
The title compound was synthesized in the same manner as in Example 277 from methyl 3-(4-hydroxyphenyl)propanoate and (2′,6′-diethylbiphenyl-3-yl)methanol. a yellow oil (yield 80%).

reactant | methyl 3-(4-hydroxyphenyl)propanoate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | (2′,6′-diethylbiphenyl-3-yl)methanol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC=C1)CO | C17H20O
product | methyl 3-(4-((2′,6′-diethylbiphenyl-3-yl)methoxy)phenyl)propanoate | C(C)C1=C(C(=CC=C1)CC)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC | C27H30O3
